US05185370
3-[(4-Chloro-3-nitrophenyl)methylene]-2,4-pentanedione
The procedure described in Example 1 was repeated by using 1.85 g of 4-chloro-3-nitrobenzaldehyde and 1.5 g of 2,4-pentanedione. Yield 1.32 g, mp 110°-111° C.

reactant | 4-chloro-3-nitrobenzaldehyde | 1.85 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 2,4-pentanedione | 1.5 g | CC(CC(C)=O)=O | C5H8O2
product | 3-[(4-Chloro-3-nitrophenyl)methylene]-2,4-pentanedione | ClC1=C(C=C(C=C1)C=C(C(C)=O)C(C)=O)[N+](=O)[O-] | C12H10ClNO4
